US04112236
Preparation of m-[N-(4-Hydroxynonyl)methanesulfonamidomethyl]hydrocinnamic Acid
m-[N-(4-Hydroxynonyl)methanesulfonamidomethyl]-cinnamic acid (3.0 g., 0.075 mole) dissolved in ethanol (80 ml.) is hydrogenated over 0.8 g. of a 5% Pd on charcoal catalyst at one atmosphere of pressure and room temperature. After the theoretical amount of hydrogen is absorbed, the catalyst is removed by filtration. The ethanol is evaporated and the residual solid is purified by crystallization to afford the pure title compound.

reactant | m-[N-(4-Hydroxynonyl)methanesulfonamidomethyl]-cinnamic acid | 0.075 mole, 3.0 g | OC(CCCN(S(=O)(=O)C)CC=1C=C(C=CC(=O)O)C=CC1)CCCCC | C20H31NO5S
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | [Pd] | Pd
product | m-[N-(4-Hydroxynonyl)methanesulfonamidomethyl]hydrocinnamic Acid | OC(CCCN(S(=O)(=O)C)CC=1C=C(CCC(=O)O)C=CC1)CCCCC | C20H33NO5S
